US07402698B2
A solution of benzo[b]thiophene-2-carbaldehyde (1.0 g, 6.17 mmol) and carbon tetrabromide (3.1 g, 9.25 mmol) in methylene chloride (50 mL) was cooled to 0° C. A solution of triphenylphosphine (4.86 g, 18.3 mmol) in methylene chloride (20 mL) was added dropwise. After ½ hour the solution was placed on a plug of silica gel and eluted with 20% ethyl acetate:hexane. Concentration of the eluent resulted in the isolation of 1.3 g (67%) of 2-(2,2-Dibromo-vinyl)-benzo[b]thiophene as a yellow oil, which was used as such in the next step.

reactant | benzo[b]thiophene-2-carbaldehyde | 6.17 mmol, 1.0 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | carbon tetrabromide | 9.25 mmol, 3.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 18.3 mmol, 4.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-Dibromo-vinyl)-benzo[b]thiophene | 1.3 g, 67% | BrC(=CC1=CC2=C(S1)C=CC=C2)Br | C10H6Br2S
